US06686352B2
a) 2-Cyclopropyl-10-fluoro-5,7-dihydro-6H-pyrimido[5,4-d][1]benzazepin-6-one
Analogous to Scheme 1, from 4-[(dimethylamino)methylene]-7-fluoro-3,4-dihydro-1H-benzazepine-2,5-dione and cyclopropanecarboxamidine hydrochloride. Yield: 88%.

reactant | 4-[(dimethylamino)methylene]-7-fluoro-3,4-dihydro-1H-benzazepine-2,5-dione | CN(C)C=C1CC(NC2=C(C1=O)C=C(C=C2)F)=O | C13H13FN2O2
reactant | cyclopropanecarboxamidine hydrochloride | Cl.C1(CC1)C(=N)N
product | 2-Cyclopropyl-10-fluoro-5,7-dihydro-6H-pyrimido[5,4-d][1]benzazepin-6-one | Yield: 88% | C1(CC1)C=1N=CC=2CC(NC3=C(C2N1)C=C(C=C3)F)=O | C15H12FN3O
